US07112593B2
b) 2-Benzyl-1-methoxymethyloxy-4-iodobenzene
10.1 g of 2-benzyl-1-hydroxy-4-iodobenzene and 3 ml of chloromethyl methyl ether were added to 100 ml of tetrahydrofuran and while stirring on an ice bath, 1.45 g of 60% (oily) sodium hydride was added dropwise to the mixture. After stirring for 2 hours, water was added to the reaction mixture, which then was extracted with ethyl acetate, washed with saturated brine and thereafter dried over anhydrous magnesium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography with 10% ethyl acetate/hexane, to give 8.7 g of the title compound.

reactant | 2-benzyl-1-hydroxy-4-iodobenzene | 10.1 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)I)O | C13H11IO
reactant | chloromethyl methyl ether | 3 ml | COCCl | C2H5ClO
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
solvent | water | O | H2O
product | 2-Benzyl-1-methoxymethyloxy-4-iodobenzene | 8.7 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)I)OCOC | C15H15IO2
